US07589232B2
Step b) Formation of N-{4-[(4-butylphenyl)ethynyl]benzyl}-3-cyclopentyl-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-7-yl)propanamide
The titled compound was prepared following the procedure I using 7-({4-[(4-butylphenyl)ethynyl]benzyl}amino)-2,2-dimethyl-4H-1,3-benzodioxin-4-one and 3-cyclopentylpropanoyl chloride as a white powder (44%). 1H NMR (CDCl3, 300 MHz) δ 7.92 (d, J=8.3 Hz, 1H), 7.42 (m, 4H), 7.14 (m, 4H), 6.77 (m, 1H), 6.60 (br s, 1H), 4.89 (s, 2H), 2.61 (t, J=7.5 Hz, 2H), 2.16 (m, 2H), 1.71 (s, 6H). 1.68-1.28 (m, 13H), 1.03-0.88 (m, 5H). HPLC, Rt: 6.24 min (Purity: 99%).

reactant | 7-({4-[(4-butylphenyl)ethynyl]benzyl}amino)-2,2-dimethyl-4H-1,3-benzodioxin-4-one | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CNC=2C=CC3=C(OC(OC3=O)(C)C)C2)C=C1 | C29H29NO3
reactant | 3-cyclopentylpropanoyl chloride | C1(CCCC1)CCC(=O)Cl | C8H13ClO
product | N-{4-[(4-butylphenyl)ethynyl]benzyl}-3-cyclopentyl-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-7-yl)propanamide | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C(CCC2CCCC2)=O)C=2C=CC3=C(OC(OC3=O)(C)C)C2)C=C1 | C37H41NO4
